US08193228B2
2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol
Hydrogen chloride (4 M in dioxane) (1.5 mL, 0.67 mmol) was added to a solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol (200 mg, 0.33 mmol) in methanol (6 mL). After stirring at ambient temperature for 3 h, volatiles were removed. The residue was partitioned between 1 N hydrochloric acid and diethyl ether. The aqueous phase was washed with diethyl ether, basified with saturated aqueous sodium carbonate and extracted with diethyl ether and ethyl acetate. Combined extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound. Purification by HPLC (Gilson; Chiralcel OJ column; 10 mL/min; 10% isopropanol/heptane). (M+H) found 368.

reactant | Hydrogen chloride | 0.67 mmol, 4 M, 1.5 mL | Cl | ClH
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol | 0.33 mmol, 200 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H40FN3O
solvent | methanol | 6 mL | CO | CH4O
product | 2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol | CC(CC=1N=C(NC1)CC(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C22H26FN3O
